US09227956B2
A round-bottom flask was charged with Preparation 12, tert-butyl (3R)-3-[(4-bromobenzoyl)(3-methylpyridin-2-yl)amino]piperidine-1-carboxylate (150 g, 317 mmol), bis(pinacolato)diboron (97.8 g, 381 mmol), potassium acetate (100 g, 1.01 mol, and 2-methyltetrahydrofuran (750 mL). The reaction mixture was warmed to 75° C. 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (Pd(dppf)Cl2CH2Cl2) (5.12 g, 6.21 mmol) was added and the reaction mixture was heated under reflux for 19 h. The reaction mixture was cooled to room temperature and H2O was added. The reaction mixture was passed through a pad of Celite and the layers separated. The organic layer was concentrated in vacuo. The brown residue was purified by column chromatography on silica gel, eluting with a gradient of 30-50% EtOAc in heptane. The product-containing fractions were concentrated in vacuo. The residue was filtered through a pad of Celite using warm heptane and DCM to solubilize product. The reaction mixture was concentrated in vacuo until product started to crystallize. The solids were granulated for 16 h at room temperature, collected via filtration and dried in a vacuum oven to afford tert-butyl (3R)-3-{(3-methylpyridin-2-yl)[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoyl]amino}piperidine-1-carboxylate as a light pink solid (142 g, 86%).

reactant | tert-butyl (3R)-3-[(4-bromobenzoyl)(3-methylpyridin-2-yl)amino]piperidine-1-carboxylate | 317 mmol, 150 g | BrC1=CC=C(C(=O)N([C@H]2CN(CCC2)C(=O)OC(C)(C)C)C2=NC=CC=C2C)C=C1 | C23H28BrN3O3
reactant | bis(pinacolato)diboron | 381 mmol, 97.8 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | C(C)(=O)[O-].[K+]
reactant | 2-methyltetrahydrofuran | 750 mL | CC1OCCC1 | C5H10O
catalyst | 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane | 6.21 mmol, 5.12 g | ClCCl.[Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | H2O | O | H2O
product | tert-butyl (3R)-3-{(3-methylpyridin-2-yl)[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoyl]amino}piperidine-1-carboxylate | 142 g, 86% | CC=1C(=NC=CC1)N([C@H]1CN(CCC1)C(=O)OC(C)(C)C)C(C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C29H40BN3O5
